US07820815B2
b. 1-[(3-Cyanopyridin-2-yl)methyl]-3-methyl-7-(2-butin-1-yl)-8-bromoxanthine
202 g (0.68 mol) of 3-methyl-7-(2-butin-1-yl)-8-bromoxanthine, 188.5 g (1.36 mol) of anhydrous potassium carbonate and 1.68 litres of N-methyl-2-pyrrolidone are initially charged in the reactor and heated to 70° C. Subsequently, 119 g (0.75 mol) of 2-chloromethyl-3-cyanopyridine in 240 ml of N-methyl-2-pyrrolidine (NMP) are added dropwise. The reactor contents are stirred at 70° C. for 19 hours. After the reaction has ended, 2.8 litres of water are added to the reaction mixture and it is cooled to 25° C. The product is filtered off, washed with 2 litres of water and dried at 70° C. in a drying cabinet under inertization.

reactant | 3-methyl-7-(2-butin-1-yl)-8-bromoxanthine | 0.68 mol, 202 g | CN1C(NC(C=2N(C(=NC12)Br)CC#CC)=O)=O | C10H9BrN4O2
reactant | potassium carbonate | 1.36 mol, 188.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-methyl-2-pyrrolidone | 1.68 litres | CN1C(CCC1)=O | C5H9NO
reactant | 2-chloromethyl-3-cyanopyridine | 0.75 mol, 119 g | ClCC1=NC=CC=C1C#N | C7H5ClN2
solvent | water | 2.8 litres | O | H2O
product | 1-[(3-Cyanopyridin-2-yl)methyl]-3-methyl-7-(2-butin-1-yl)-8-bromoxanthine | C(#N)C=1C(=NC=CC1)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)Br)C | C17H13BrN6O2
